US08071593B2
Preparation of 5-methyl-3-[3-(5-methylpyrimidin-2-yl)benzyl]-3H-benzoxazol-2-one
112 mg (0.75 mmol) of 5-methyl-3H-oxazolo[4,5-b]pyridin-2-one, 180 mg (0.90 mmol) of [3-(5-methylpyrimidin-2-yl)phenyl]methanol and 238 mg (0.90 mmol) of triphenylphosphine are suspended in 5 ml of THF, and the mixture is stirred for 30 min. The mixture is subsequently cooled to 0° C., and 186 μl (0.90 mmol) of diisopropyl azodicarboxylate are added. The reaction mixture is stirred at room temperature for 2 h. The reaction mixture is diluted with 20 ml of dichloromethane, washed with 2×20 ml of water, dried over sodium sulfate and evaporated. The residue is purified by column chromatography on silica gel; yield: 101 mg of “A45”; ESI: 332 (M+H); Rt=4.91 min (method C);

reactant | 5-methyl-3H-oxazolo[4,5-b]pyridin-2-one | 0.75 mmol, 112 mg | CC1=CC=C2C(=N1)NC(O2)=O | C7H6N2O2
reactant | [3-(5-methylpyrimidin-2-yl)phenyl]methanol | 0.90 mmol, 180 mg | CC=1C=NC(=NC1)C=1C=C(C=CC1)CO | C12H12N2O
reactant | triphenylphosphine | 0.90 mmol, 238 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.90 mmol, 186 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-methyl-3-[3-(5-methylpyrimidin-2-yl)benzyl]-3H-benzoxazol-2-one | CC=1C=CC2=C(N(C(O2)=O)CC2=CC(=CC=C2)C2=NC=C(C=N2)C)C1 | C20H17N3O2
